US06573286B1
2-(4-bromophenyl)-1-methyl-2-oxoethyl formate
1-(4-bromophenyl)-2-hydroxypropan-1-one and 1-(4-bromophenyl)-1-hydroxypropan-2-one

reactant | 1-(4-bromophenyl)-2-hydroxypropan-1-one | BrC1=CC=C(C=C1)C(C(C)O)=O | C9H9BrO2
reactant | 1-(4-bromophenyl)-1-hydroxypropan-2-one | BrC1=CC=C(C=C1)C(C(C)=O)O | C9H9BrO2
product | 2-(4-bromophenyl)-1-methyl-2-oxoethyl formate | C(=O)OC(C(=O)C1=CC=C(C=C1)Br)C | C10H9BrO3
